US04576942
1-oxo-pyrido[2,1-C][1,4]benzothiazine-3-carboxylic acid
A mixture of 6 g of 1-oxo-pyrido[2,1-C][1,4]benzothiazine-3,4-dicarboxylic acid in 60 ml Dow-Therm-A was stirred at 230° C. for 1 hr. (until no more gas was evolved). It was then allowed to cool, filtered, and the precipitate washed with ether giving 4.1 g crude product which was crystallized from 1N NaOH and 1N HCl to give 3.5 g product, m.p. 222° C.

reactant | 1-oxo-pyrido[2,1-C][1,4]benzothiazine-3,4-dicarboxylic acid | 6 g | O=C1CC(=C(C2=C1N1C(=CS2)C=CC=C1)C(=O)O)C(=O)O | C14H9NO5S
solvent | Dow-Therm-A | 60 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 1-oxo-pyrido[2,1-C][1,4]benzothiazine-3-carboxylic acid | 3.5 g | O=C1CC(=CC2=C1N1C(=CS2)C=CC=C1)C(=O)O | C13H9NO3S
